US07354924B2
Example 50, was prepared from 1-(pyridin-2-yl)-4-[(4-methoxy-7-chloro-6-azaindol-3-yl)-oxoacetyl]piperazine and thiazol-2-yl tributyltin, Precursor 14a-21, according to the general method above to provide 1-(pyridin-2-yl)-4-[(4-methoxy-7-(thiazol-2-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine MS m/z: (M+H)+ Calc'd for C24H25N6O4S: 477.13; found 477.22. HPLC retention time: 0.98 minutes (column A).

reactant | 1-(pyridin-2-yl)-4-[(4-methoxy-7-chloro-6-azaindol-3-yl)-oxoacetyl]piperazine | N1=C(C=CC=C1)N1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)Cl)=O | C19H18ClN5O3
reactant | thiazol-2-yl tributyltin | S1C(=NC=C1)[Sn](CCCC)(CCCC)CCCC
product | 1-(pyridin-2-yl)-4-[(4-methoxy-7-(thiazol-2-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine | N1=C(C=CC=C1)N1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)C=1SC=CN1)=O | C22H20N6O3S
